US07888366B2
A solution of (R)-1-(3-chlorophenyl)ethanol (0.730 g, 4.66 mmol) in dimethylformamide (5 mL) was added to a 0° C. slurry of sodium hydride (0.207 g, 5.18 mmol) in dimethylformamide (5 mL) under nitrogen atmosphere. The reaction mixture was warmed to room temperature, stirred for 3 hour, and then cooled with an ice bath. The cold orange solution was added dropwise to a 0° C. solution of 2,6-difluorobenzonitrile (0.720 g, 5.18 mmol) in dimethylfomamide (5 mL). After the reaction was stirred at ambient temperature for around 18 hours, the reaction was diluted with water and extracted with EA. The organic layer was washed with water and brine, dried over MgSO4, and concentrated in vacuo to a yellow semi-solid. Flash chromatography purification (silica gel, 50% hexane in DCM) afforded the 2-fluoro-5-[(R)-1-(3-chlorophenyl)ethoxy]benzonitrile as a pale yellow oil (0.645 g, 50%).

reactant | (R)-1-(3-chlorophenyl)ethanol | 4.66 mmol, 0.730 g | ClC=1C=C(C=CC1)[C@@H](C)O | C8H9ClO
reactant | sodium hydride | 5.18 mmol, 0.207 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 5.18 mmol, 0.720 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-fluoro-5-[(R)-1-(3-chlorophenyl)ethoxy]benzonitrile | 0.645 g, 50% | FC1=C(C#N)C=C(C=C1)O[C@H](C)C1=CC(=CC=C1)Cl | C15H11ClFNO
